US07696223B2
b) 2,3-Dibromo-7-cyano-1-(3-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 105(a) from 2,3,7-tribromo-1-(3-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester and CuCN. The title compound, ESI MS (m/z): 508 (M+H)+.

reactant | 2,3,7-tribromo-1-(3-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)N(C(=C2Br)Br)CC2=CC(=CC=C2)OC)O | C18H15Br3N2O4
reactant | CuCN | C(#N)[Cu]
product | 2,3-Dibromo-7-cyano-1-(3-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C(=C2Br)Br)CC2=CC(=CC=C2)OC)O | C19H15Br2N3O4
